US07598417B2
3-Ethyl-cyclohex-2-enylamine:
The title amine was generated from 3-azido-1-ethyl-cyclohexene (2.27 g, 15.00 mmol), triphenyl phosphine (4.00 g, 15.20 mmol) and KOH (0.85 g, 15.20 mmol) according to the protocols as outlined in general procedure I. Spectroscopic data: 1H NMR (300 MHz, CDCl3) δ 0.99 (t, J=7.62 Hz, 3H), 1.09-1.34 (m, 2H), 1.48-1.62 (m, 1H), 1.69-1.79 (m, 1H), 1.83-1.98 (m, 6H), 3.26-3.40 (m, 1H), 5.29-5.38 (m, 1H).

reactant | 3-azido-1-ethyl-cyclohexene | 15.00 mmol, 2.27 g | N(=[N+]=[N-])C1C=C(CCC1)CC | C8H13N3
reactant | triphenyl phosphine | 15.20 mmol, 4.00 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | KOH | 15.20 mmol, 0.85 g | [OH-].[K+]
product | 3-Ethyl-cyclohex-2-enylamine | C(C)C1=CC(CCC1)N | C8H15N
